US07348332B2
b) (3,4-Dihydro-quinazolin-2-yl)-(R)-indan-1-yl-amine
2-Methylsulfanyl-3,4-dihydro-quinazoline hydroiodide (50 mg, 0.28 mmol) and (R)-1-aminoindane (37 mg, 0.28 mmol) were suspended in acetonitrile (1 ml) and heated in a screw-capped vial to 85° C. (6 h). The product was isolated from the reaction mixture by preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min) to give the title compound (18 mg, 24%).

reactant | 2-Methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 0.28 mmol, 50 mg | I.CSC1=NC2=CC=CC=C2CN1
reactant | (R)-1-aminoindane | 0.28 mmol, 37 mg | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3CN | CC#N | C2H3N
product | (3,4-Dihydro-quinazolin-2-yl)-(R)-indan-1-yl-amine | 18 mg, 24% | N1=C(NCC2=CC=CC=C12)N[C@@H]1CCC2=CC=CC=C12 | C17H17N3
